US06162824
Step 1: 9-Ethynyl-9-phenylfluorene
Lithium acetylenide-ethylenediamine (10 mmol) is added to a dry flask under argon, diluted with 5 mL of HMPA, and cooled to between 0 and 5° C. with stirring. A solution of 8 mmol of 9-bromo-9-phenylfluorene dissolved in 4 mL of HMPA is added slowly to the reaction flask. The reaction mixture is warmed to room temperature and, after 2 h, 25 mL of water is slowly added. The mixture is taken up in 100 mL of ether and washed with 20mL of H2O, 20 mL of brine, dried (Na2SO4) and concentrated. The product is purified by chromatography over SiO2 using EtOAc/hexanes (2/98) as eluent. (Smith, W. N.; Beumel, O. F., Preparation of Alkynes with Dialkynes by reaction of monohalo- and dihaloalkanes with lithium acetylenide-ethylenediamine complex., Synthesis, 1974, 441-442.)

reactant | Lithium acetylenide ethylenediamine | 10 mmol | [C-]#C.[Li+].C(CN)N
reactant | 9-bromo-9-phenylfluorene | 8 mmol | BrC1(C2=CC=CC=C2C=2C=CC=CC12)C1=CC=CC=C1 | C19H13Br
reactant | water | 25 mL | O | H2O
solvent | HMPA | 5 mL | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | HMPA | 4 mL | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
solvent | ether | 100 mL | CCOCC | C4H10O
product | 9-Ethynyl-9-phenylfluorene | C(#C)C1(C2=CC=CC=C2C=2C=CC=CC12)C1=CC=CC=C1 | C21H14
